US04014915
A solution of ethyl 2-hydroxyiminoacetoacetate (3.98 g.) and pyridine (1.98 g.) in benzene (25 ml.) was added dropwise to a solution of phosgene (2.48 g.) in benzene (30 ml.) for 30 minutes at 4° to 5° C. After stirring for 1 hour at the same temperature, the mixture was stirred for 1 hour at room temperature and allowed to stand overnight. A solution of tert-butyl alcohol (3.7 g.) and pyridine (3.96 g.) in benzene (25 ml.) was added dropwise for 30 minutes at 5° to 7° C. to the resultant solution containing ethyl 2-chlorocarbonyloxyiminoacetoacetate. After stirring for 1 hour at the same temperature, the reaction temperature was slowly elevated to room temperature, after which the mixture was stirred for 6 hours at the same temperature and allowed to stand overnight. A precipitate as dissolved by adding about the same volume of water as that of the organic layer to the reaction mixture. The aqueous layer was then separated. The organic layer was then washed with a 0.5M citric acid aqueous solution, a 5% sodium carbonate aqueous solution and a sodium chloride aqueous solution, and dried over magnesium sulfate. After drying, the solvent was distilled off to give ethyl 2-tert-butoxycarbonyloxyiminoacetoacetate (3.7 g.), oil.

reactant | ethyl 2-hydroxyiminoacetoacetate | 3.98 g | ON=C(C(=O)OCC)C(=O)C | C6H9NO4
reactant | phosgene | 2.48 g | C(=O)(Cl)Cl | CCl2O
reactant | ethyl 2-chlorocarbonyloxyiminoacetoacetate | ClC(=O)ON=C(C(=O)OCC)C(=O)C | C7H8ClNO5
reactant | benzene | 25 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | pyridine | 3.96 g | N1=CC=CC=C1 | C5H5N
solvent | tert-butyl alcohol | 3.7 g | C(C)(C)(C)O | C4H10O
solvent | pyridine | 1.98 g | N1=CC=CC=C1 | C5H5N
product | ethyl 2-tert-butoxycarbonyloxyiminoacetoacetate | 3.7 g | C(C)(C)(C)OC(=O)ON=C(C(=O)OCC)C(=O)C | C11H17NO6
